US09382243B2
Step A. Methyl 4′-(6-chloro-2-(((4aR,7R,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-yl)oxy)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-5-yl)-[1,1′-biphenyl]-4-carboxylate
To a stirred solution of 5-(4-bromophenyl)-6-chloro-2-(((4aR,7R,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-yl)oxy)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridine (586 mg, 0.871 mmol), dicyclohexyl(2′,6′-dimethoxy-[1,1′-biphenyl]-2-yl)phosphine (36 mg, 0.088 mmol), methyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (297 mg, 1.132 mmol), and tribasic potassium phosphate (554 mg, 2.61 mmol) in tolune (2 mL) and water (0.1 mL) under nitrogen was added palladium acetate (10 mg, 0.045 mmol). The mixture was stirred at 100° C. for 16 hours, then allowed to cool to room temperature. The mixture was filtered, concentrated under reduced pressure, and chromatographed using a Biotage™ 50 g silica gel cartridge eluted with 0-30% EtOAc in 1:1 Hexane/DCM over 30 column volumes. The product fractions were concentrated under reduced pressure to provide the desired product as a foamy off-white solid. LC-MS: calculated for C39H42ClN3O7Si 727.25, observed m/e: 728.33 (M+H)+ (Rt 3.11/4 min).

reactant | 5-(4-bromophenyl)-6-chloro-2-(((4aR,7R,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-yl)oxy)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridine | 0.871 mmol, 586 mg | BrC1=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2COCC[Si](C)(C)C)O[C@@H]2C[C@@H]1OC(OC[C@H]1OC2)C2=CC=CC=C2)Cl | C31H35BrClN3O5Si
reactant | dicyclohexyl(2′,6′-dimethoxy-[1,1′-biphenyl]-2-yl)phosphine | 0.088 mmol, 36 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | methyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 1.132 mmol, 297 mg | CC1(OB(OC1(C)C)C1=CC=C(C(=O)OC)C=C1)C | C14H19BO4
reactant | potassium phosphate | 2.61 mmol, 554 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | palladium acetate | 0.045 mmol, 10 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 0.1 mL | O | H2O
product | Methyl 4′-(6-chloro-2-(((4aR,7R,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-yl)oxy)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-5-yl)-[1,1′-biphenyl]-4-carboxylate | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OC)N=C(N2COCC[Si](C)(C)C)O[C@@H]2C[C@@H]1OC(OC[C@H]1OC2)C2=CC=CC=C2 | C39H42ClN3O7Si
